US08440832B2
A) 3-Methyl-3-naphthalen-2-ylmethyl-2,3-dihydro-benzofuran-6-carboxylic acid methyl ester
A solution of 4-Iodo-3-(2-methyl-allyloxy)-benzoic acid methyl ester (455 mg, 1.37 mmol) in DMF (15 mL) were added Potassium carbonate (379 mg, 2.74 mmol), Tetrabutylammonium chloride (380 mg, 1.37 mmol), Palladium acetate (25.6 mg, 0.136 mmol) in DMF (5 mL) and 2-Naphthylboronic acid, (282 mg, 1.64 mmol) was submitted to microwave irradiation at 150° C. for 16 minutes. The resulting mixture was filtered over silica, washed with water, dried over MgSO4 and concentrated. Column chromatography (silica gel, heptane/CH2Cl2: 4/6) afforded 100 mg (22%) of the title compound as a slightly brown oil which crystallized.

reactant | 4-Iodo-3-(2-methyl-allyloxy)-benzoic acid methyl ester | 1.37 mmol, 455 mg | COC(C1=CC(=C(C=C1)I)OCC(=C)C)=O | C12H13IO3
reactant | Potassium carbonate | 2.74 mmol, 379 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-Naphthylboronic acid | 1.64 mmol, 282 mg | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
catalyst | Tetrabutylammonium chloride | 1.37 mmol, 380 mg | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
catalyst | Palladium acetate | 0.136 mmol, 25.6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-Methyl-3-naphthalen-2-ylmethyl-2,3-dihydro-benzofuran-6-carboxylic acid methyl ester | 100 mg, 22% | COC(=O)C1=CC2=C(C(CO2)(CC2=CC3=CC=CC=C3C=C2)C)C=C1 | C22H20O3
